US07319101B2
a) Methyl 6-cyano-2,2-diphenyl-1,3-benzodioxole-4-carboxylate
To a solution of methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate (800 mg, 1.95 mmol, 1 eq.) in a mixture of 15 mL benzene and 5 mL DMF, Pd(PPh3)4 (225 mg, 0.195 mmol, 0.1 eq.), KCN (127 mg, 1.95 mmol, 1 eq.) and 18-crown-6 (415 mg, 1.56 mmol, 0.8 eq.) was added and the reaction mixture was stirred at 100° C. overnight. Then the reaction mixture was poured into a separatory funnel containing EtOAc and H2O and the aqueous phase was extracted with EtOAc (2×20 mL). The combined organic phases were washed with H2O, then saturated aqueous NaCl solution, dried over MgSO4, and evaporated under reduced pressure. Flash chromatography on silica gel (hexane/EtOAc=20:1→9:1) afforded the desired compound as a colorless solid.

reactant | methyl 6-bromo-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | 1.95 mmol, 800 mg, 1 eq. | BrC=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC | C21H15BrO4
reactant | KCN | 1.95 mmol, 127 mg, 1 eq. | [C-]#N.[K+]
reactant | 18-crown-6 | 1.56 mmol, 415 mg, 0.8 eq. | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | benzene | 15 mL | C1=CC=CC=C1 | C6H6
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.195 mmol, 225 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | O | H2O
product | Methyl 6-cyano-2,2-diphenyl-1,3-benzodioxole-4-carboxylate | C(#N)C=1C=C(C2=C(OC(O2)(C2=CC=CC=C2)C2=CC=CC=C2)C1)C(=O)OC | C22H15NO4
